US07307095B2
(S)-2-(Benzooxazol-2-ylamino)-3-cyclohexyl-N-[2-(4-methoxy-phenylamino)-ethyl]-propionamide
To a stirring solution of 2-(S)-(benzooxazol-2-ylamino)-3-cyclohexyl propionic acid (288 mg, 1.0 mmol), N1-(4-methoxy-phenyl)-ethane-1,2-diamine-2HCl (239 mg, 1.0 mmol), and iPr2NEt (0.87 mL, 5.0 mmol) in dichloromethane (4 mL) was added HATU (418 mg, 1.1 mmol). The solution was stirred at room temperature for 4 hours and then evaporated to dryness. The crude material was chromatographed over silica gel (Hexanes/EtOAc) to afford the title compound as a white powder (243 mg, 56%). HPLC-MS calcd. for C25H32N4O3 (M+H+) 437.25, found 437.5.

reactant | 2-(S)-(benzooxazol-2-ylamino)-3-cyclohexyl propionic acid | 1.0 mmol, 288 mg | O1C(=NC2=C1C=CC=C2)N[C@H](C(=O)O)CC2CCCCC2 | C16H20N2O3
reactant | N1-(4-methoxy-phenyl)-ethane-1,2-diamine-2HCl | 1.0 mmol, 239 mg | Cl.Cl.COC1=CC=C(C=C1)NCCN
reactant | iPr2NEt | 5.0 mmol, 0.87 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.1 mmol, 418 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (S)-2-(Benzooxazol-2-ylamino)-3-cyclohexyl-N-[2-(4-methoxy-phenylamino)-ethyl]-propionamide | 243 mg, 56% | O1C(=NC2=C1C=CC=C2)N[C@H](C(=O)NCCNC2=CC=C(C=C2)OC)CC2CCCCC2 | C25H32N4O3
